US06194439B1
1,2,6,7-Tetramethoxy-9H-carbazole/2,3,6,7-Tetramethoxy-9H-carbazole—A stirred solution of 2-((3,4-dimethoxy)phenyl)-4,5,-dimethoxynitrobenzene (6.5 g, 20 mmol) in triethylphosphite (10.5 mL, 6.11 mmol) was heated at 160° C. under a nitrogen atmosphere for 10 hours. The excess triethylphosphite was removed in vacuo, residue was slurried in chloroform the solids were filtered and recrystallized from EtOAc to afford 2,3,6,7-tetramethoxy-9H-carbazole (1.9 g); m.p. 232-233° C. Anal. Calcd. for C16H17NO4: C, 66.88; H, 5.97; N, 4.88. Found: C, 65.04; H, 5.62; N, 4.71. The chloroform filtrate from above was concentrated in vacuo and flash chromatographed (20% EtOAc/CCl4) to afford 1,2,6,7-tetramethoxy-9H-carbazole (1.7 g); m.p. 170-171° C. (MeOH). Anal. Calcd. for C16H17NO4: C, 66.88; H, 5.97; N, 4.88. Found: C, 66.75; H, 5.80; N, 4.88.

reactant | 2-((3,4-dimethoxy)phenyl)-4,5,-dimethoxynitrobenzene | 20 mmol, 6.5 g | COC=1C=C(C=CC1OC)C1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-] | C16H17NO6
reactant | triethylphosphite | 6.11 mmol, 10.5 mL | C(C)OP(OCC)OCC | C6H15O3P
product | 2,3,6,7-tetramethoxy-9H-carbazole | 1.9 g | COC1=CC=2NC3=CC(=C(C=C3C2C=C1OC)OC)OC | C16H17NO4
